US07951826B2
(6-Butoxy-pyridin-3-yl)-(S)(+)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
A mixture of (6-hydroxy-pyridin-3-yl)-(S)(+)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone (85 mg, 0.31 mmol), 1-bromo butane (0.04 mL, 0.36 mmol), cesium carbonate (195 mg, 0.60 mmol), and catalytic KI in dioxane (5 mL) is stirred under nitrogen at 80-90° C. for 10 h. The reaction is diluted with CH2Cl2, filtered, and washed with brine. The organic portion is dried over Na2SO4, filtered and evaporated. The crude product is partially purified by a SCX column (MeOH wash, elution with 2M NH3 in MeOH. Further purification is accomplished using silica-gel column chromatography (gradient: 100% CH2Cl2 to 10% 2M NH3 in MeOH/CH2Cl2) to give the title compound (52 mg, 50%). MS (ES+) 332.2 (M+H)+.

reactant | (6-hydroxy-pyridin-3-yl)-(S)(+)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | 0.31 mmol, 85 mg | OC1=CC=C(C=N1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C15H21N3O2
reactant | 1-bromo butane | 0.36 mmol, 0.04 mL | BrCCCC | C4H9Br
reactant | cesium carbonate | 0.60 mmol, 195 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (6-Butoxy-pyridin-3-yl)-(S)(+)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | 52 mg, 50% | C(CCC)OC1=CC=C(C=N1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C19H29N3O2
